US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-methoxycarbonyl-5-methylnitrobenzene
To a solution of 1-t-butoxycarbonyl-4-hydroxypiperidine (4.2 g), methyl 3-methyl-5-nitrosalicylate (1.8 g) and triphenylphosphine (6.8 g) in dichloromethane (100 ml) was added diethyl azodicarboxylate (4.1 ml) and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=4/1 as an eluant to give the desired compound (3.1 g, yield 91%) as a rose oil.

reactant | 1-t-butoxycarbonyl-4-hydroxypiperidine | 4.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | methyl 3-methyl-5-nitrosalicylate | 1.8 g | CC1=C(C(C(=O)OC)=CC(=C1)[N+](=O)[O-])O | C9H9NO5
reactant | triphenylphosphine | 6.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.1 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-methoxycarbonyl-5-methylnitrobenzene | 3.1 g, yield 91% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C(=O)OC | C19H26N2O7
